US06762180B1
(2) 4-[N-(2-dimethylamino-ethyl)-N-propionyl-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and propionyl chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[N-(2-dimethylamino-ethyl)-N-propionyl-amino]-nitrobenzene | CN(CCN(C(CC)=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O3
